US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4,6-difluoro-benzothiazol-2-yl)-amide
Using 2-amino-4,6-difluoro-benzothiazole and 5-methyl-thiophene-carboxylicacid chloride the title compound was prepared as a yellow solid (74% yield), MS: m/e=310 (M+).

reactant | 2-amino-4,6-difluoro-benzothiazole | NC=1SC2=C(N1)C(=CC(=C2)F)F | C7H4F2N2S
reactant | 5-methyl-thiophene-carboxylicacid chloride | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
product | 5-Methyl-thiophene-2-carboxylic acid (4,6-difluoro-benzothiazol-2-yl)-amide | FC1=CC(=CC2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)F | C13H8F2N2OS2
